US04701459
(2-11) N-Cyclohexyl-1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-N-methyl-3-piperidinecarboxamide
Prepared from diethyl 2,4-dioxoimidazolidine-5-phosphonate and 2-nitro-5-[3-(N-methyl-N-cyclohexylcarbamoyl)-1-piperidinyl]benzaldehyde analogous to the procedure of Example (2-1), m.p. 153°-162° C., crystallized from MeOH-H2O.

reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
reactant | 2-nitro-5-[3-(N-methyl-N-cyclohexylcarbamoyl)-1-piperidinyl]benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CC(CCC1)C(N(C1CCCCC1)C)=O | C20H27N3O4
product | N-Cyclohexyl-1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-N-methyl-3-piperidinecarboxamide | C1(CCCCC1)N(C(=O)C1CN(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])C=C1C(NC(N1)=O)=O)C | C23H29N5O5
